US08455665B2
(S)-3-((R)-1-Hydroxy-2-isopropoxyethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
Isopropyl alcohol (215 μL, 2.8 mmol) was dissolved in THF (428 μL), and the mixture was cooled at 0° C. NaH (33.8 mg, 1.4 mmol) was added in 4 portions, and the mixture stirred for 10 minutes at room temperature. (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (200 mg, 938 μmol) was added. The resulting solution was placed in a microwave reactor for 10 minutes at 100° C., then cooled to room temperature. The mixture was extracted with Hexanes (10 mL) and washed with water (10 mL). The organic layer was collected, dried over Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography (0-100% EtOAc in hexanes) to give the title compound as a clear oil (162 mg).

reactant | Isopropyl alcohol | 2.8 mmol, 215 μL | C(C)(C)O | C3H8O
reactant | NaH | 1.4 mmol, 33.8 mg | [H-].[Na+]
reactant | (S)—(R)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 938 μmol, 200 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H]1OC1 | C11H19NO3
reactant | THF | 428 μL | C1CCOC1 | C4H8O
product | (S)-3-((R)-1-Hydroxy-2-isopropoxyethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 162 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](COC(C)C)O | C14H27NO4
